US06703422B2
A solution of 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenylhexanoic acid ethyl ester (6.00 g, 12.0 mmol) and sodium hydroxide (3.1 g, 74.0 mmol) in ethanol (40 mL) and deionized water (4 mL) was heated to reflux for 2 h. The ethanol was evaporated in vacuo and the residue was dissolved in water (20 mL) and extracted with diethyl ether (20 mL). The organic phase was discarded. The aqueous layer was acidified with 2 N hydrochloric acid (15 ml) to pH 2-3 and extracted with diethyl ether (4′ 50 mL). The combined organic layers were washed with brine (15 mL), dried over MgSO4, and concentrated in vacuo. The residue (4.53 g) was purified by column chromatography on silica gel (hexanes/ethyl acetate=10/1) to give 6-(5-carboxy-5-phenyl-hexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid (3.63 g, 68%) as a yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): d (ppm): 7.42-7.20 (m, 10H), 2.45 (t, J=7.3 Hz, 4H), 2.15-1.80 (m, 4H), 1.65-1.45 (m, 4H), 1.56 (s, 6H), 1.40-1.15 (m, 4H). 13C NMR (75 MHz, CDCl3/TMS): d (ppm): 182.43, 142.89, 128.41, 126.91, 126.05, 50.00, 38.53, 31.80, 30.00, 24.03, 22.40. HRMS (LSIMS, nba): Calcd. for C26H35O4S1 (MH+): 443.2256, found: 443.2231.

reactant | 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenylhexanoic acid ethyl ester | 12.0 mmol, 6.00 g | C(C)OC(C(CCCCSCCCCC(C)(C1=CC=CC=C1)C(=O)OCC)(C1=CC=CC=C1)C)=O | C30H42O4S
reactant | sodium hydroxide | 74.0 mmol, 3.1 g | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
product | 6-(5-carboxy-5-phenyl-hexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid | 3.63 g, 68% | C(=O)(O)C(CCCCSCCCCC(C(=O)O)(C1=CC=CC=C1)C)(C)C1=CC=CC=C1 | C26H34O4S
